US08975254B2
a) 2-Nitro-5-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile
5-Chloro-2-nitrobenzonitrile (1.5 g), 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (2.74 g), PEPPSI ((1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene) (3-chloropyridyl)palladium(ii) dichloride) (0.11 g), K2CO3 (2.27 g) in DMF (30 ml) and water (3 ml) was stirred under argon at 90° C. for 2.5 h. After pouring the mixture to water, it was extracted with EtOAc. Combined organic phases were washed with 5% NaHCO3, water and brine, dried with Na2SO4 and evaporated. The residue was triturated with ethanol. The precipitate was filtered and washed with water. Yield 1.96 g. 1H-NMR (400 MHz; d6-DMSO): δ 1.50-1.65 (m, 3H), 1.83-1.87 (m, 1H), 1.95-1.99 (m, 1H), 2.33-2.42 (m, 1H), 3.60-3.67 (m, 1H), 3.95-4.00 (m, 1H), 5.34 (d, 1H), 6.82 (d, 1H), 7.68 (d, 1H), 8.11 (dd, 1H), 8.32 (d, 1H), 8.54 (d, 1H).

reactant | 5-Chloro-2-nitrobenzonitrile | 1.5 g | ClC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.74 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | K2CO3 | 2.27 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 3 ml | O | H2O
catalyst | (1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene) (3-chloropyridyl)palladium(ii) dichloride | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)=[Pd-3](C1=NC=CC=C1Cl)(Cl)Cl
product | 2-Nitro-5-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile | [N+](=O)([O-])C1=C(C#N)C=C(C=C1)C1=CC=NN1C1OCCCC1 | C15H14N4O3
